US08865713B2
Step C: 1-(5-Chloro-6-ethanesulfinyl-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester.
To a solution of 1-[1-(2-methoxy-ethoxymethyl)-6-ethylsulfinyl-5-trifluoromethyl-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.191 g, 0.420 mmol) in ethanol (2 mL) was added 4M HCl in dioxane (2 mL). The reaction mixture was stirred at 23° C. for 2 h. The resulting precipitate was collected and rinsed with diethyl ether to yield the titled compound (0.103 g, 67% yield). MS (ESI/CI): mass calcd. for C15H15ClN4O3S, 366.1; m/z found, 367.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 9.02 (d, J=0.6 Hz, 1H), 8.40 (d, J=0.6 Hz, 1H), 7.87 (s, 1H), 7.80 (s, 1H), 4.30 (q, J=7.1 Hz, 2H), 3.17 (dq, J=14.6, 7.3 Hz, 1H), 2.84 (dq, J=14.6, 7.4 Hz, 1H), 1.32 (t, J=7.1 Hz, 3H), 1.08 (t, J=7.3 Hz, 3H).

reactant | 1-[1-(2-methoxy-ethoxymethyl)-6-ethylsulfinyl-5-trifluoromethyl-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.420 mmol, 0.191 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=C(C(=C2)C(F)(F)F)S(=O)CC | C20H23F3N4O5S
reactant | HCl | 4M | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1-(5-Chloro-6-ethanesulfinyl-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.103 g, 67% yield | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1)C=C(C(=C2)Cl)S(=O)CC | C15H15ClN4O3S
